US07678795B2
(1S,8R)-5-Cyclopropyl-1,6,11,11-tetramethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
light yellow solid. MS (EI): 242.2 (M+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo [2.2.1]heptane-2,3-dione, (2-Cyclopropyl-1-methyl-2-oxo-ethyl)-phosphonic acid diethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo [2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | (2-Cyclopropyl-1-methyl-2-oxo-ethyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(C(=O)C1CC1)C | C10H19O4P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-5-Cyclopropyl-1,6,11,11-tetramethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C1(CC1)C1=NN=C2[C@]3(CC[C@@H](C2=C1C)C3(C)C)C | C16H22N2
